US08629137B2
Step 3: 4-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-2-fluoro-benzonitrile
0.190 g (4.30 mmol) sodium hydride (55%, suspension in mineral oil) were added to 1.15 g (3.88 mmol) 2-fluoro-4-(4-methyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-benzonitrile in 5.0 mL DMF at RT. The reaction mixture was stirred for 30 min at RT. Then 0.320 mL (5.00 mmol) iodomethane were added and the mixture was stirred for 1 h at RT. Then another 0.1 mL iodomethane were added and stirring was continued at RT. Ice water was added to the reaction mixture and the precipitate formed was suction filtered. The residue was purified by flash chromatography. The fractions containing the product were combined, evaporated down, triturated with diethyl ether, suction filtered and again washed with diethyl ether. The residue was dried i. vac.

reactant | sodium hydride | 4.30 mmol, 0.190 g | [H-].[Na+]
reactant | 2-fluoro-4-(4-methyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-benzonitrile | 3.88 mmol, 1.15 g | FC1=C(C#N)C=CC(=C1)C(=O)C1=CC2=C(NC(O2)=O)C(=C1)C | C16H9FN2O3
reactant | iodomethane | 5.00 mmol, 0.320 mL | IC | CH3I
reactant | iodomethane | 0.1 mL | IC | CH3I
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
product | 4-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-2-fluoro-benzonitrile | CN1C(OC2=C1C(=CC(=C2)C(=O)C2=CC(=C(C#N)C=C2)F)C)=O | C17H11FN2O3
